US07488789B2
(2) Synthesis of (3-tert-butyl-5-methy-cyclopentadienyl)(fluorenyl)di(4-chloro-phenyl)methane
In a 200 ml three-necked flask equipped with a magnetic stirrer chip and three-way cock thoroughly purged with nitrogen, 1.42 g of fluorene (8.52 mmol) was dissolved in 60 ml of dehydrated diethyl ether in a nitrogen atmosphere. To the solution, 5.6 ml of n-butyl lithium/hexane solution (1.58M: 8.85 mmol) was gradually added dropwise in an ice bath and stirred at room temperature over night. To the reaction solution, 2.99 g of 3-tert-butyl-1-methyl-6,6-di(4-chloro-phenyl)fulvene (8.08 mmol) was added and stirred under reflux for several days. The reaction mixture was gradually added dropwise to 30 ml of a hydrochloric acid aqueous solution (1N) set in an ice bath, and stirred briefly. Therein, diethyl ether was added to separate an organic phase. The organic phase was washed with a saturated sodium bicarbonate aqueous solution, water and saturated brine. The organic phase was dried with anhydrous magnesium sulfate, thereafter the drying agent was filtered off and the solvent was distilled off from the filtrate under reduced pressure to give a red solid. The solid was purified with a column chromatography using 180 g of silica gel (developing solvent: n-hexane) and the developing solvent was distilled off under reduced pressure. Thereafter, the remaining product was re-crystallized using hexane and dried under reduced pressure, and thereby the aimed compound was obtained in an amount of 1.69 g (3.16 mmol) as a pale yellow solid (yield: 39%).

reactant | fluorene | 8.52 mmol, 1.42 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | n-butyl lithium hexane | 8.85 mmol, 1.58M, 5.6 ml | C(CCC)[Li].CCCCCC
reactant | 3-tert-butyl-1-methyl-6,6-di(4-chloro-phenyl)fulvene | 8.08 mmol, 2.99 g | C(C)(C)(C)C=1C=C(C(C1)=C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)C | C23H22Cl2
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | (3-tert-butyl-5-methy-cyclopentadienyl)(fluorenyl)di(4-chloro-phenyl)methane | C(C)(C)(C)C1=CC(C(=C1)C)C(C1=CC=C(C=C1)Cl)(C1=CC=C(C=C1)Cl)C1=CC=CC=2C3=CC=CC=C3CC12 | C36H32Cl2
